US06602497B1
Step 1: 4hydroxy-L-proline ethyl ester hydrochloride.
200 mL of absolute ethanol were placed in a 500-mL one-necked round-bottomed flask equipped with an addition funnel. The flask was then cooled in a dry ice/acetone bath, then 17 mL (0.23 mmoles) of thionyl chloride were added from the addition funnel over a 10 minute period. The funnel was removed, and 26.2 g (0.20 mmoles) of 4-hydroxyproline were added in one portion while stirring. The flask was equipped with a reflux condenser and a sodium hydroxide trap, and the mixture was refluxed for two hours. The product was precipitated in ether, isolated by filtration, and washed three times with ether, then it was dried under a stream of nitrogen followed by high vacuum.

reactant | thionyl chloride | 0.23 mmoles, 17 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxyproline | 0.20 mmoles, 26.2 g | OC1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | 4hydroxy-L-proline ethyl ester hydrochloride | Cl.C(C)OC([C@H]1NCC(C1)O)=O | InChI=1S/C7H13NO3.ClH/c1-2-11-7(10)6-3-5(9)4-8-6;/h5-6,8-9H,2-4H2,1H3;1H/t5?,6-;/m0./s1
